US07776875B2
In a manner similar to the method described in example 4a, 5-bromosalicylaldehyde (5.65 g, 28 mmol) (Aldrich) reacted with 4-(toluene-4-sulfonyloxy)-piperidine-1-carboxylic acid tert-butyl ester (5 g, 14 mmol, ASTATECH) and K2CO3 in N,N-dimethylformamide to give 4-(4-bromo-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester as a yellow gum (Yield 5.15 g, 51%).

reactant | 5-bromosalicylaldehyde | 28 mmol, 5.65 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | 4-(toluene-4-sulfonyloxy)-piperidine-1-carboxylic acid tert-butyl ester | 14 mmol, 5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-bromo-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | Yield 5.15 g, 51% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)Br)C=O | C17H22BrNO4
